US06992094B1
Ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate
A mixture of ethyl 6-(3-methoxyethoxymethoxy5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate (2.6 g, 5 mmol), concentrated sulphuric acid (535 μl), ethanol (75 ml) and THF (25 ml) is stirred for 3 days at room temperature. The reaction medium is extracted with ethyl ether. The organic phase is washed twice with water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum. The solid obtained is washed with ethyl ether. 2.01 g (93%) of the expected compound are obtained in the form of an orange-coloured powder. m.p.=138° C.

reactant | ethyl 6-(3-methoxyethoxymethoxy5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate | 5 mmol, 2.6 g | COCCOCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C26H35NO5Se
reactant | sulphuric acid | 535 μl | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinate | 2.01 g, 93% | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C22H27NO3Se
